US07169780B2
Step 8: Benzyl 1-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-1-methylethylcarbamate.
To a methanolic solution of methyl 5-(benzoyloxy)-2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate, p-fluoro benzylamine (3 eq) was added and mixture was refluxed over night. After evaporation of methanol, residue was taken in EtOAc, washed with 1N HCl and brine, dried (Na2SO4), filtered and evaporated to obtain the title product.

reactant | methyl 5-(benzoyloxy)-2-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C(N(C1=O)C)C(C)(C)NC(=O)OCC1=CC=CC=C1)C(=O)OC | C25H25N3O7
reactant | p-fluoro benzylamine | 3 eq | FC1=CC=C(CN)C=C1 | C7H8FN
product | Benzyl 1-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-1-methylethylcarbamate | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C(C)(C)NC(OCC2=CC=CC=C2)=O)C=C1 | C24H25FN4O5
